US05102667
(3aRS,7aRS)-2-[(2-tert-butoxycarbonylaminophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (1.5 g) is treated with a 5.7N solution (15 cc) of hydrochloric acid in dry dioxane at 20° C. for 4 hours. The reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is purified by dissolving in acetonitrile (20 cc) and precipitating from isopropyl ether (30 cc). The solid is drained, washed with isopropyl ether and dried. (3aRS,7aRS)-2-[(2-aminophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone hydrochloride (1.1 g) is obtained in the form of a slightly pink solid.

reactant | (3aRS,7aRS)-2-[(2-tert-butoxycarbonylaminophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 1.5 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H36N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3aRS,7aRS)-2-[(2-aminophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 1.1 g | Cl.NC1=C(C=CC=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H28N2O2.ClH/c29-25-14-8-7-9-20(25)17-27(32)30-18-23-24(19-30)28(16-15-26(23)31,21-10-3-1-4-11-21)22-12-5-2-6-13-22;/h1-14,23-24H,15-19,29H2;1H
